US07579488B2
Preparation of 5-{1-Ethyl-1-[3-methyl-4-(2-oxo-cyclohexyloxy)-phenyl]-propyl}-benzofuran-2-carboxylic acid
5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-7-methyl-benzofuran-2-carboxylic acid (1000 mg, 2.7 mmol), 2-chloro cyclohexanone (429 mg, 3.3 mmol) and potassium carbonate (759 mg, 5.5 mmol) was made in an analogous manner to Example 30 part D followed by base hydrolysis with 2N NaOH analogous to Example 30 part E to yield (60 mg, 30%) MS (ES) m/e: 433.3 (M−1)

reactant | 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-7-methyl-benzofuran-2-carboxylic acid | 2.7 mmol, 1000 mg | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C=1C=C(C2=C(C=C(O2)C(=O)O)C1)C | C22H24O4
reactant | 2-chloro cyclohexanone | 3.3 mmol, 429 mg | ClC1C(CCCC1)=O | C6H9ClO
reactant | potassium carbonate | 5.5 mmol, 759 mg | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 2N | [OH-].[Na+]
product | 5-{1-Ethyl-1-[3-methyl-4-(2-oxo-cyclohexyloxy)-phenyl]-propyl}-benzofuran-2-carboxylic acid | C(C)C(CC)(C1=CC(=C(C=C1)OC1C(CCCC1)=O)C)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C27H30O5
